US04324741
2.0 ml of methylene chloride, 0.10 ml (0.42 mmol) of 1-dodecanethiol and 87 mg (0.42 mmol) of 2,6-di-tert-butyl-4-methylpyridine were added to a flask, and 198 mg (0.42 mmol) of pentafluoroethylphenyliodonium trifluoromethanesulfonate was added thereto in small portions while stirring at room temperature, followed by stirring at room temperature for 20 minutes. The resulting white precipitate was filtered and subjected to column chromatography of silica gel. Iodobenzene and the product was eluted with pentane and purified by gas chromatography to obtain 1-pentafluoroethylthiododecane as an oily substance. Yield, 87%.

reactant | 1-dodecanethiol | 0.42 mmol, 0.10 ml | C(CCCCCCCCCCC)S | C12H26S
reactant | 2,6-di-tert-butyl-4-methylpyridine | 0.42 mmol, 87 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | pentafluoroethylphenyliodonium trifluoromethanesulfonate | 0.42 mmol, 198 mg | FC(S(=O)(=O)[O-])(F)F.FC(C(F)(F)F)(F)[I+]C1=CC=CC=C1
solvent | methylene chloride | 2.0 ml | C(Cl)Cl | CH2Cl2
product | 1-pentafluoroethylthiododecane | FC(C(F)(F)F)(SCCCCCCCCCCCC)F | C14H25F5S
